US08278316B2
C. 1-(2-Methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-2-methylpropan-2-ol
1-(4-Bromo-2-methoxyphenoxy)-2-methylpropan-2-ol (1 g, 3.63 mmol) was dissolved in DMF (10 mL) under N2 and potassium acetate (1 g, 10.90 mmol), bis(pinacolato)diboron (1 g, 3.82 mmol), and PdCl2(dppf)-CH2Cl2 (0.15 g, 0.182 mmol) were added. The reaction mixture was heated at 90° C. for 1 h. (Terranova, Eric; Pascal, Jean Claude. (Galderma Research & Development, Fr.). WO 2004-FR3192; US 2007/001593). The reaction was diluted with EtOAc, washed sat NH4Cl, brine, dried (MgSO4), and concentrated to afford the crude product. The residue was purified using ISCO flash chromatography (silica gel/hexanes/ethyl acetate 100:0 to 0:100 gradient) to afford the desired product 1-(2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-2-methylpropan-2-ol 4C (1.05 g, 3.26 mmol, 90% yield) as a yellow oil.

reactant | 1-(4-Bromo-2-methoxyphenoxy)-2-methylpropan-2-ol | 3.63 mmol, 1 g | BrC1=CC(=C(OCC(C)(O)C)C=C1)OC | C11H15BrO3
reactant | potassium acetate | 10.90 mmol, 1 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 3.82 mmol, 1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.182 mmol, 0.15 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1-(2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-2-methylpropan-2-ol | 3.26 mmol, 1.05 g, 90% yield | COC1=C(OCC(C)(O)C)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H27BO5
